US07960409B2
(S)-2-(1-{[2-(benzylamino)-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol
A solution of 2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol (100 mg, 0.22 mmol) in benzylamine (0.3 mL) was stirred at 125° C. for 6 h. The reaction was quenched with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification on silica gel (eluting with acetone/dichloromethane, 1:9) gave the title compound. MS (+ESI): 536 (M+H)+.

reactant | 2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol | 0.22 mmol, 100 mg | ClC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)CN1N=NC(=C1)C(C(F)(F)F)(CC)O | C22H17ClF4N4O
solvent | benzylamine | 0.3 mL | C(C1=CC=CC=C1)N | C7H9N
product | (S)-2-(1-{[2-(benzylamino)-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol | C(C1=CC=CC=C1)NC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)CN1N=NC(=C1)[C@](C(F)(F)F)(CC)O | C29H25F4N5O
